US07309717B2
To solution of ethyl chrysanthemumate (200 g) in acetone (1200 mL) at 40-45° C. was added potassium permanganate (KMnO4) (580 g) as a solid in 10 equal portions. After each addition of KMnO4, the exotherm that ensued was allowed to subside before the addition of the next portion of KMnO4. Upon completion of KMnO4 addition, the reaction mixture was stirred for another 4 h. After cooling the reaction mixture to about 10° C., water (1200 mL) was added. The resulting slurry was transferred to a mixture of sodium sulfite (600 g) and water (600 mL) with a 400 mL water rinse. The reaction mixture was cooled to 10° C., and 98% sulfuric acid (400 mL) while maintaining the temperature below 30° C. The layers were separated and the aqueous layer was extracted with methyl tert-butyl ether (MTBE) (800 mL). The organic solutions were combined and any water that settled was removed. The organic solution was concentrated under atmospheric pressure and about 700 mL. MTBE (800 mL) was added and the mixture was concentrated again to about 700 mL. The hot solution was cooled to about 50° C. and MTBE (800 mL) was added. The MTBE solution was cooled further to 10° C. and 25% NaOH solution (456 mL) was added while maintaining the temperature below 25° C. The aqueous layer was separated and then heated at 50° C. After 2 h, the mixture was cooled to 5° C. and acidified to pH 2-3 with 35% HCl solution (about 340 mL). The aqueous mixture was extracted twice with EtOAc (1000 mL+500 mL). The EtOAc layer was concentrated under atmospheric pressure to about 600 mL whereupon toluene (1000 mL) was added. Further concentration of this solution under reduced pressure to about 600 mL led to the precipitation of the product. The suspension was cooled to 5° C., filtered, and the filter cake washed with 100 mL of toluene. The wet product was dried under reduced pressure to give 100 g of caronic acid as a mixture of the cis- and trans-isomers.

reactant | ethyl chrysanthemumate | 200 g | CCOC(=O)C1C(C1(C)C)C=C(C)C | C12H20O2
reactant | potassium permanganate | 580 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | KMnO4 | [O-][Mn](=O)(=O)=O.[K+]
reactant | water | 1200 mL | O | H2O
reactant | sodium sulfite | 600 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 600 mL | O | H2O
reactant | water | 400 mL | O | H2O
solvent | acetone | 1200 mL | CC(=O)C | C3H6O
product | caronic acid | 100 g | CC1(C(C1C(=O)O)C(=O)O)C | C7H10O4
